### PR TITLE
feat(Analysis/Complex/CauchyIntegral): A formula for `deriv (conj ∘ f ∘ conj)`

### PR DESCRIPTION
**Pull request by emo916math**
We prove that if a holomorphic function at a point is composed before and after with complex conjugation, it remains holomorphic, and we prove the corresponding formula for the derivative. This is useful for various tasks (e.g. proving that the composition of two anti-holomorphic functions is holomorphic).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 1]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+  rw [conj_conj] at this
+  have := Filter.Tendsto.comp hf this
+  convert this with w
+  simp only [conj_conj, smul_eq_mul, Function.comp_apply]
+  congr 1
+  · congr 1
+    rw[← norm_conj]
+    simp
+  · rw[← norm_conj]
+    simp
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
theorem hasDerivAt_conj_comp_comp_conj {f : ℂ → ℂ} {z f' : ℂ} (hf : HasDerivAt f f' z) :
    HasDerivAt (conj ∘ f ∘ conj) (conj f') (conj z) := by
  rw [hasDerivAt_iff_tendsto] at hf ⊢
  convert hf.comp (conj_conj z ▸ continuous_conj.tendsto (conj z)) using 2 with w
  rw [← norm_conj, ← norm_conj (_ - _)]; simp
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 2]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+
+/--
+Let $f : \mathbb{C} \to \mathbb{C}$ be a complex differentiable function at $z \in \mathbb{C}$ with
+derivative $f'(z)$. Then the function $g(w) = \overline{f(\overline{w})}$ is complex differentiable
+at $\overline{z}$ with derivative $\overline{f'(\overline{z})}$.
+-/
+theorem hasDerivAt_conj_comp_comp_conj' {f : ℂ → ℂ} {z f' : ℂ} (hf : HasDerivAt f f' (conj z)) :
+    HasDerivAt (conj ∘ f ∘ conj) (conj f') z :=
+  (conj_conj z) ▸ hasDerivAt_conj_comp_comp_conj hf
+/--
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean:683]:
```suggestion

/--
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 3]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    simp
+
+/--
+Let $f : \mathbb{C} \to \mathbb{C}$ be a complex differentiable function at $z \in \mathbb{C}$ with
+derivative $f'(z)$. Then the function $g(w) = \overline{f(\overline{w})}$ is complex differentiable
+at $\overline{z}$ with derivative $\overline{f'(\overline{z})}$.
+-/
+theorem hasDerivAt_conj_comp_comp_conj' {f : ℂ → ℂ} {z f' : ℂ} (hf : HasDerivAt f f' (conj z)) :
+    HasDerivAt (conj ∘ f ∘ conj) (conj f') z :=
+  (conj_conj z) ▸ hasDerivAt_conj_comp_comp_conj hf
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  conj_conj z ▸ hasDerivAt_conj_comp_comp_conj hf
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 4]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
     exact h _ m
 
+open ComplexConjugate
+
+/--
+Let $f : \mathbb{C} \to \mathbb{C}$ be a complex differentiable function at $z \in \mathbb{C}$ with
+derivative $f'(z)$. Then the function $g(w) = \overline{f(\overline{w})}$ is complex differentiable
+at $\overline{z}$ with derivative $\overline{f'(\overline{z})}$.
+-/
+theorem hasDerivAt_conj_comp_comp_conj {f : ℂ → ℂ} {z f' : ℂ} (hf : HasDerivAt f f' z) :
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean:657]:
```suggestion
theorem _root_.HasDerivAt.conj_comp_comp_conj {f : ℂ → ℂ} {z f' : ℂ} (hf : HasDerivAt f f' z) :
```
if you want to use dot notation.

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 5]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+  have := Filter.Tendsto.comp hf this
+  convert this with w
+  simp only [conj_conj, smul_eq_mul, Function.comp_apply]
+  congr 1
+  · congr 1
+    rw[← norm_conj]
+    simp
+  · rw[← norm_conj]
+    simp
+
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion

theorem hasDerivAt_conj_comp_comp_conj_iff {f : ℂ → ℂ} {z f' : ℂ} :
    HasDerivAt (conj ∘ f ∘ conj) (conj f') (conj z) ↔ HasDerivAt f f' z :=
  ⟨fun hf ↦ by convert hf.conj_comp_comp_conj <;> simp [Function.comp_def],
  fun hf ↦ hf.conj_comp_comp_conj⟩
 
```
I wrote these lemmas to make following proofs shorter.

Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion

theorem hasDerivAt_conj_comp_comp_conj_iff' {f : ℂ → ℂ} {z f' : ℂ} :
    HasDerivAt (conj ∘ f ∘ conj) f' (conj z) ↔ HasDerivAt f (conj f') z := by
  convert hasDerivAt_conj_comp_comp_conj_iff; simp

```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 2 above)
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean:683]:
```suggestion

theorem differentiableAt_conj_comp_comp_conj_iff {f : ℂ → ℂ} {z : ℂ} :
    DifferentiableAt ℂ (conj ∘ f ∘ conj) (conj z) ↔ DifferentiableAt ℂ f z :=
  ⟨fun h ↦ (hasDerivAt_conj_comp_comp_conj_iff'.1 h.hasDerivAt).differentiableAt,
  fun h ↦ h.hasDerivAt.conj_comp_comp_conj.differentiableAt⟩
  
/--
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 6]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+  · by_cases hg : DifferentiableAt ℂ g (conj z)
+    · -- If g were differentiable, then f would be differentiable
+      have : DifferentiableAt ℂ f z := by
+        convert (hasDerivAt_conj_comp_comp_conj hg.hasDerivAt).differentiableAt using 2
+        · ext w
+          simp[g]
+        · simp
+      contradiction
+    · -- Both derivatives are zero when the functions are not differentiable
+      rw [deriv_zero_of_not_differentiableAt hg, deriv_zero_of_not_differentiableAt hf, map_zero]
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
theorem deriv_conj_comp_comp_conj (f : ℂ → ℂ) (z : ℂ) :
    deriv (conj ∘ f ∘ conj) (conj z) = conj (deriv f z) := by
  by_cases hf : DifferentiableAt ℂ f z
  · exact hf.hasDerivAt.conj_comp_comp_conj.deriv
  · simp [deriv_zero_of_not_differentiableAt, hf, differentiableAt_conj_comp_comp_conj_iff]
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 7]
```diff
@@ -647,4 +647,68 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+Let $f : \mathbb{C} \to \mathbb{C}$ be a function. Then the derivative of the function
+$g(w) = \overline{f(\overline{w})}$ at $w$ is $\overline{f'(\overline{w})}$.
+If $f$ is not differentiable at $\overline{w}$, then both sides have the junk value $0$.
+-/
+@[simp]
+theorem deriv_conj_comp_comp_conj' (f : ℂ → ℂ) :
+    deriv (conj ∘ f ∘ conj) = conj ∘ (deriv f) ∘ conj := by
+  ext z
+  nth_rw 1 [← conj_conj z]
+  exact deriv_conj_comp_comp_conj ..
```
Comment (kckennylau) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
@[simp]
theorem deriv_conj_comp_comp_conj' (f : ℂ → ℂ) :
    deriv (conj ∘ f ∘ conj) = conj ∘ (deriv f) ∘ conj :=
  funext fun z ↦ by simp [← deriv_conj_comp_comp_conj]
```

**Review by eric-wieser — COMMENTED** [review]
@loefflerd, does this fit nicely in your opinion with your merged #25028 ?

**Comment by loefflerd** [comment]
> @loefflerd, does this fit nicely in your opinion with your merged #25028 ?

The intersection is non-empty, but does not wholly contain either PR :)

The first lemma `hasDerivAt_conj_comp_comp_conj` is an almost exact match for the existing `HasDerivAt.conj_conj`:
```
import Mathlib
open scoped ComplexConjugate

theorem hasDerivAt_conj_comp_comp_conj {f : ℂ → ℂ} {z f' : ℂ} (hf : HasDerivAt f f' z) :
   HasDerivAt (conj ∘ f ∘ conj) (conj f') (conj z) :=
  hf.conj_conj
```
(`conj_conj` is slightly more general, since it allows the base to be a normed field with an involution satisfying suitable axioms, rather than specifically `ℂ`, but `ℂ` is obviously the most important example.)

But I don't think there's anything in Mathlib, from #25028 or elsewhere, that precisely implies the other lemmas here. In particular we don't have anything for `deriv` yet. I would suggest dropping the first lemma from this PR, and generalizing the other lemmas below to match the formulation of `HasDerivAt.conj_conj`. 

(I also would advocate moving these lemmas from `Analysis/Complex/CauchyIntegral`, which doesn't feel like the right place for them, into `Analysis/Calculus/Deriv/Star` which is where `HasDerivAt.conj_conj` lives.)

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 4 above)
Comment (emo916math) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean:657]: I was wondering what `_root_` meant. Thanks!

**Comment by emo916math** [comment]
Looking good. I agree, `Analysis/Calculus/Deriv/Star` is a better home.

I tried to accept each of @kckennylau's suggestions, but CI failed and I'm not sure what I'm doing wrong.

**Comment by kckennylau** [comment]
You haven't accepted the first one which changes the name, but it is fine, because you can use the existing `HasDerivAt.conj_conj` to replace it anyway.

**Comment by loefflerd** [comment]
> I tried to accept each of @kckennylau's suggestions, but CI failed and I'm not sure what I'm doing wrong.

General remark: GitHub review suggestions are a bit of an imprecise science. Usually, reviewers do make an effort to organize their suggestions into batches in such a way that if you apply the whole batch, the code compiles; but this isn't always easy for reviewers to achieve. So, some amount of manual detail-fixing by the author after applying review suggestions is a normal part of the process, and it isn't a sign that you are doing anything wrong.

**Comment by emo916math** [comment]
Ah, I see now. I'm going to go ahead and close this PR, because it's easier to start fresh and add the new proof to `Analysis/Calculus/Deriv/Star`.

**Comment by eric-wieser** [comment]
In this case it's not too big a deal, but generally it's better to keep using the same PR to preserve the _comment_ history. You can always force push to the branch if you want to start over with the _commit_ history.
